datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([C:23]2=[CH:22][C:21](=[CH:20][C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[CH:32]=[C:33](C3=CC=CC=C3)[C:24]2=[O:25])C=C1.CC[O:72]/[C:11](=[CH:10]/[C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)[O-:12]>>CC[O:72][C:11]([CH:10]([CH:20]([C:21]1=[CH:22][C:23](C2=CC=CC=C2)=[C:24]([O-:25])[C:33](C2=CC=CC=C2)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
C1=CC=C([N:62]2[CH:61]=[N:10][CH:64]=[CH:63]2)C=C1.C1CN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCOCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)CCO1>>C1=CC=C([N:62]2[CH:61]=[N+:10]([CH:20]([C:31]3=[CH:32][CH:33]=[C:34](N4CCOCC4)[CH:35]=[CH:36]3)[C:41]3=[CH:42][CH:43]=[C:44](N4CCOCC4)[CH:45]=[CH:46]3)[CH:64]=[CH:63]2)C=C1 10=20
"C1=CC2=CC=CC(CC3CC4CC[N:10]3CC4)=C2C=C1.C1C[C:20](=[O:21])C1>>C1=CC2=CC=CC(CC3CC4CC[N+:10]3([C:20]3([O-:21])CCC3)CC4)=C2C=C1 10=20;20,21=21"
"C1=CC=C(C[N+:23](CC2=CC=CC=C2)=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1.C1CC[C:11]([N:12]2CCOCC2)=[CH:10]C1>>C1=CC=C(C[N:23](CC2=CC=CC=C2)[CH:22]=[CH:21][CH:20]([CH:10]2CCCC[C:11]2=[N+:12]2CCOCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[N+:21](C)C)[CH:36]=[CH:35]1.C[Si:62](C)(C)[Si:11]([H:10])([Si:72](C)(C)C)[Si:82](C)(C)C>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[N:21](C)C)[CH:36]=[CH:35]1.C[Si:62](C)(C)[Si+:11]([Si:72](C)(C)C)[Si:82](C)(C)C 10,11=10,20;20,21=21"
"CC[Hg:11][CH2:10]C.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1>>CC[Hg+:11].C[CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1 10,11=10,20"
"C[N:43]1[C:22](=[O:23])[CH:21]=[CH:20][C:31]1=[O:32].C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CC[O:72]1>>C[N:43]1[C:22]([O-:23])=[CH:21][CH:20]([CH:10]2CC[O:72][C:11]2=[O+:12][Si:63](C)(C)C)[C:31]1=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([C:21](=[CH:20][C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.C[C:11]1([H:10])[O:12]CC[O:62]1>>C1=CC=C([S:32]([C-:21]([CH:20]([H:10])[C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.C[C:11]1=[O+:12]CC[O:62]1 10,11=10,20;12=11,12;20,21=21"
CC[O:61][C:111]([C-:10]([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:112].C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>CC[O:61][C:111]([C:10]([CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[C:42]([C:43]1=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]1)[C:53]1=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]1)([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:112] 10=20
"CC[O:33][C:22](/[CH:21]=[CH:20]/C)=[O:23].O=C(C1=CC=CC=C1)[CH-:10][N+:61]1=[CH:62][CH:63]=[CH:64][C:71]2=[C:72]1C=CC=C2>>CC[O:33][C:22](=[CH:21][CH:20](C)[CH:10](C(=O)C1=CC=CC=C1)[N+:61]1=[CH:62][CH:63]=[CH:64][C:71]2=[C:72]1C=CC=C2)[O-:23] 10=20;20,21=21,22;22,23=23"
"CC[O:62]/[C:11](=[CH:10]/[N:71]=[C:72](C1=CC=CC=C1)[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)[O-:12].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CC[O:62][C:11]([CH:10]([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[N:71]=[C:72](C1=CC=CC=C1)[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=C([S:71]([CH-:10][N+:61]#[C-:62])(=[O:72])=[O:82])C=C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]([N+:61]#[C-:62])[S:71](C1=CC=C(C)C=C1)(=[O:72])=[O:82])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"C1=C[C:63]2=[C:64](C=C1)[C:74]1=[C:73](C=CC=C1)[N:12]2[CH:11]=[CH2:10].[CH:20]1=[CH:21][C:22](=[O:23])[CH:30]=[CH:31][C:32]1=[O:33]>>C1=C[C:63]2=[C:64](C=C1)[C:74]1=[C:73](C=CC=C1)[N+:12]2=[CH:11][CH2:10][CH:20]1[CH:21]=[C:22]([O-:23])[CH:30]=[CH:31][C:32]1=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:92][C:71]([CH-:10][C:61]1=[CH:62][CH:63]=[N:64][CH:83]=[CH:82]1)=[O:72].C[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>CC[O:92][C:71]([CH:10]([CH2:20][CH:21]=[C:22]([O-:23])[O:33]C)[C:61]1=[CH:62][CH:63]=[N:64][CH:83]=[CH:82]1)=[O:72] 10=20;20,21=21,22;22,23=23"
"C1C[C:61](=[O:62])[N:10]=[C:11]1[O-:12].FC(F)(F)[S:20][N:21]1[C:22](=[O:23])CC[C:32]1=[O:33]>>C1C[C:32](=[O:33])[N:21]=[C:22]1[O-:23].FC(F)(F)[S:20][N:10]1[C:11](=[O:12])CC[C:61]1=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
